US09193726B2
Step 1. Synthesis of (2S,3S)-2-(dibenzylamino)hex-5-yn-3-ol (C38)
n-Butyllithium (2.5 M solution in hexanes, 131 mL, 328 mmol) was added drop-wise over approximately 9 minutes to a −70° C. solution of ethynyl(trimethyl)silane (46.3 mL, 328 mmol) in tetrahydrofuran (1 L), and the reaction mixture was stirred at −70° C. for 30 minutes. A solution of (1S)-N,N-dibenzyl-1-[(2R)-oxiran-2-yl]ethanamine (C37, see J. Barluenga et al., J. Org. Chem. 1995, 60, 6696-6699) (79.6 g, 298 mmol) in tetrahydrofuran (250 mL) was added; the reaction mixture, which had warmed as a result of the addition, was recooled to approximately −65° C., and boron trifluoride diethyl etherate (37.6 mL, 298 mmol) was added. The reaction mixture was then stirred for 1.5 hours at −70° C. Saturated aqueous ammonium chloride solution (200 mL) was added, and the mixture was allowed to warm to room temperature. The organic layer was washed with saturated aqueous sodium chloride solution, and the aqueous layer from the quenched reaction was extracted with ethyl acetate. The combined organic layers were dried over magnesium sulfate, filtered, and concentrated in vacuo. The residue was dissolved in methanol (500 mL), treated with potassium carbonate (206 g, 1.49 mol) and stirred at room temperature for 18 hours. After filtration through Celite and rinsing with ethyl acetate, the crude product solution was concentrated in vacuo, dissolved in diethyl ether (1 L), washed with water (250 mL) and with saturated aqueous sodium chloride solution (75 mL), dried over magnesium sulfate, filtered and concentrated under reduced pressure. After seeding with a small sample of solid product, heptane (60 mL) was added, and the mixture was vigorously stirred for 5 minutes, then filtered; the isolated solid was rinsed with heptane (50 mL) to afford the product as a pale orange solid. Yield: 37.3 g, 127 mmol, 43%. 1H NMR (400 MHz, CDCl3) δ 7.22-7.36 (m, 10H), 4.53 (s, 1H), 3.84 (d, J=13.1 Hz, 2H), 3.63 (ddd, J=9.5, 5.8, 4.0 Hz, 1H), 3.34 (d, J=13.3 Hz, 2H), 2.80 (dq, J=9.4, 6.6 Hz, 1H), 2.46 (ddd, half of ABXY pattern, J=17.0, 4.0, 2.6 Hz, 1H), 2.21 (ddd, half of ABXY pattern, J=17.0, 6.0, 2.6 Hz, 1H), 1.86 (dd, J=2.7, 2.5 Hz, 1H), 1.07 (d, J=6.8 Hz, 3H).

reactant | n-Butyllithium | 328 mmol, 2.5 M, 131 mL | C(CCC)[Li]
reactant | ethynyl(trimethyl)silane | 328 mmol, 46.3 mL | C(#C)[Si](C)(C)C | C5H10Si
reactant | (1S)-N,N-dibenzyl-1-[(2R)-oxiran-2-yl]ethanamine | 298 mmol, 79.6 g | C(C1=CC=CC=C1)N([C@@H](C)[C@H]1OC1)CC1=CC=CC=C1 | C18H21NO
reactant | boron trifluoride diethyl etherate | 298 mmol, 37.6 mL | B(F)(F)F.CCOCC
reactant | ammonium chloride | 200 mL | [Cl-].[NH4+]
reactant | potassium carbonate | 1.49 mol, 206 g | C([O-])([O-])=O.[K+].[K+]
solvent | tetrahydrofuran | 1 L | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 250 mL | O1CCCC1 | C4H8O
product | (2S,3S)-2-(dibenzylamino)hex-5-yn-3-ol | C(C1=CC=CC=C1)N([C@@H](C)[C@H](CC#C)O)CC1=CC=CC=C1 | C20H23NO
